US07390903B2
To a stirred solution of 30 mg (0.13 mmol) (2-amino-thiophen-3-yl)-(4-fluoro-phenyl)-methanone in 1 ml acetic acid was added 0.017 ml (0.13 mmol) of 1,1,1-trifluoro-pentane-2,4-dione and one drop of sulfuric acid. The mixture was then stirred at 100° C. for 15 minutes in a microwave and then concentrated in vacuo. Preparative HPLC (30% CH3CN/H20) afforded 8 mg (17%) 2,2,2-trifluoro-1-[4-(4-fluoro-phenyl)-6-methyl-thieno[2,3-b]pyridin-5-yl)-ethanone as a yellow oil. ES-MS m/e (%): 340 (M+H+, 100).

reactant | (2-amino-thiophen-3-yl)-(4-fluoro-phenyl)-methanone | 0.13 mmol, 30 mg | NC=1SC=CC1C(=O)C1=CC=C(C=C1)F | C11H8FNOS
reactant | 1,1,1-trifluoro-pentane-2,4-dione | 0.13 mmol, 0.017 ml | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 2,2,2-trifluoro-1-[4-(4-fluoro-phenyl)-6-methyl-thieno[2,3-b]pyridin-5-yl)-ethanone | 8 mg, 17% | FC(C(=O)C=1C(=C2C(=NC1C)SC=C2)C2=CC=C(C=C2)F)(F)F | C16H9F4NOS
